US07157578B2
C. 6-Methoxy-3-bromo-2-methylpyridine.
A mixture of 2-methoxy-6-methylpyridine (17.0 g, 138 mmol) and a solution of disodium hydrogen phosphate (0.15M in water, 250 mL) was stirred at room temperature. Bromine (7.1 mL, 138 mmol) was added dropwise over 15 min via an addition funnel. The reaction mixture was then stirred at room temperature for 4 h. The clear colorless solution was diluted with water (500 mL) and extracted with dichloromethane (200 mL) three times. The combined organic layers were dried over MgSO4, filtered and solvent was removed in vacuo from the filtrate to give a yellow liquid. Flash chromatography on silica gel (EtOAc:hexane::1:20) and removal of solvent from the desired combined fractions afforded a clear colorless liquid (15.4 g): 1H-NMR(CDCl3, 300 MHz): δ 7.60 (d, 1H, J=8), 6.46 (d, 1H, J=8), 3.89 (s, 3H), 2.54 (s, 3H).

reactant | 2-methoxy-6-methylpyridine | 138 mmol, 17.0 g | COC1=NC(=CC=C1)C | C7H9NO
reactant | disodium hydrogen phosphate | 0.15M, 250 mL | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | Bromine | 138 mmol, 7.1 mL | BrBr | Br2
solvent | water | 500 mL | O | H2O
product | 6-Methoxy-3-bromo-2-methylpyridine | 15.4 g | COC1=CC=C(C(=N1)C)Br | C7H8BrNO
